US04255581
To 600 ml of acetone, 31.5 g of 2-chloro-3-pyridinecarboxylic acid is added and suspended by stirring. Triethylamine (40 ml) is added and after 30 minutes 42.6 g of 3-bromophthalide is poured with stirring into the resulting reaction mixture. The mixture is refluxed for 4 hours and then poured into 2000 ml of water at 50° C. To obtain a precipitated compound, the reaction mixture is cooled with continuous stirring. The solid precipitate is collected by filtration, washed with cooled water and then dried under vacuum at a temperature of 40° C. A yield of 38.7 g (67% of theory) of phthalidyl 2-chloro-3-pyridinecarboxylate is obtained (m.p. 137°-8° C.).

reactant | acetone | 600 ml | CC(=O)C | C3H6O
reactant | 2-chloro-3-pyridinecarboxylic acid | 31.5 g | ClC1=NC=CC=C1C(=O)O | C6H4ClNO2
reactant | Triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
reactant | 3-bromophthalide | 42.6 g | BrC1OC(=O)C2=CC=CC=C12 | C8H5BrO2
solvent | water | 2000 ml | O | H2O
product | phthalidyl 2-chloro-3-pyridinecarboxylate | yield of 38.7 g, 67% | ClC1=NC=CC=C1C(=O)OC1OC(=O)C2=CC=CC=C12 | C14H8ClNO4
